US07666878B2
93a) 1-Bromomethyl-4-ethanesulfonyl-2-trifluoromethyl-benzene
The titled compound is prepared analogously to 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene by replacing 2-chloro-4-fluorobenzaldehyde (step 90a) with 4-fluoro-3-trifluoromethylbenzaldehyde and by replacing sodium methanesulfinate with sodium ethanesulfinate.

reactant | 1-bromomethyl-2-chloro-4-methanesulfonyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | 4-fluoro-3-trifluoromethylbenzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | sodium ethanesulfinate | C(C)S(=O)[O-].[Na+]
product | 1-Bromomethyl-4-ethanesulfonyl-2-trifluoromethyl-benzene | BrCC1=C(C=C(C=C1)S(=O)(=O)CC)C(F)(F)F | C10H10BrF3O2S
